* Applied Vacuum Engineering (AVE) - DUAL NETWORK FUSION
* Collision: Deuterium (2H) + Tritium (3H) -> dt_fusion_transient
* Auto-generated topological mutual impedance transient array



* -----------------------------------------------------------------
* NUCLEON (Baseline 6^3_2 Topological Defect)
* -----------------------------------------------------------------
.SUBCKT NUCLEON IN OUT
L_CORE IN OUT 1uH
C_CORE IN OUT 1pF
.ENDS NUCLEON



* -----------------------------------------------------------------
* MACROSCOPIC TOPOLOGY (Dual Array)
* -----------------------------------------------------------------
* V_PONDEROMOTIVE provides the kinetic forcing required to overcome 1/d repulsion
V_POND NODE_A_1 0 SINE(0 1MEG 1G) AC 1

X_NUC_A_1 NODE_A_1 0 NUCLEON
X_NUC_A_2 NODE_A_2 0 NUCLEON
X_NUC_B_1 NODE_B_1 0 NUCLEON
X_NUC_B_2 NODE_B_2 0 NUCLEON
X_NUC_B_3 NODE_B_3 0 NUCLEON


* -----------------------------------------------------------------
* SPATIAL MUTUAL INDUCTANCE (K-FACTORS)
* -----------------------------------------------------------------
K_1 X_NUC_A_1.L_CORE X_NUC_A_2.L_CORE 0.333333
K_2 X_NUC_B_1.L_CORE X_NUC_B_2.L_CORE 0.288677
K_3 X_NUC_B_1.L_CORE X_NUC_B_3.L_CORE 0.288677
K_4 X_NUC_B_2.L_CORE X_NUC_B_3.L_CORE 0.288684
K_5 X_NUC_A_1.L_CORE X_NUC_B_1.L_CORE 0.328798
K_6 X_NUC_A_1.L_CORE X_NUC_B_2.L_CORE 0.356738
K_7 X_NUC_A_1.L_CORE X_NUC_B_3.L_CORE 0.186853
K_8 X_NUC_A_2.L_CORE X_NUC_B_1.L_CORE 0.216930
K_9 X_NUC_A_2.L_CORE X_NUC_B_2.L_CORE 0.733665
K_10 X_NUC_A_2.L_CORE X_NUC_B_3.L_CORE 0.210157


* -----------------------------------------------------------------
* SIMULATION DIRECTIVES
* -----------------------------------------------------------------
* Transient Analysis to track the AC ramp phase-locking threshold
.TRAN 0.1n 500n

.END
